US07125896B2
b) 3-(2-Bromo-4-chlorophenoxy)-1-isopropylpyrrolidine
Sodium hydride (0.43 g, 60% dispersion in oil) was added portionwise to a stirred solution of 2-bromo-4-chlorophenol (2.1 g) in dimethylacetamide (15 ml). After stirring for 15 minutes, a solution of 1-isopropylpyrrolidin-3-yl methanesulphonate (15 mmol) in dimethylacetamide (15 ml) was added portionwise and the resulting mixture was heated at 90° C. for 18 h. The solvent was evaporated and the residue dissolved in ethyl acetate/water. The solvent phase was washed twice with brine and then dried and evaporated to an oil. Purification was achieved using silica chromatography eluting with dichloromethane/methanol mixtures. This gave the title compound (3.0 g).

reactant | Sodium hydride | 0.43 g | [H-].[Na+]
reactant | 2-bromo-4-chlorophenol | 2.1 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | 1-isopropylpyrrolidin-3-yl methanesulphonate | 15 mmol | CS(=O)(=O)OC1CN(CC1)C(C)C | C8H17NO3S
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 3-(2-Bromo-4-chlorophenoxy)-1-isopropylpyrrolidine | 3.0 g | BrC1=C(OC2CN(CC2)C(C)C)C=CC(=C1)Cl | C13H17BrClNO
